US07858624B2
To a stirred solution of crude (3S,4S)-4-amino-N-butyl-3-(tertbutyldimethylsilyloxy)-5-cyclohexylpentanamide (311 mg, 0.81 mmol) in MeCN were added powdered NaHCO3 (203 mg, 2.43 mmol) and p-nitrophenyl chloroformate (244 mg, 1.21 mmol) and the mixture was stirred overnight at rt. The mixture was concentrated under reduced pressure. The residue was taken up in 1:1 EtOAc/Et2O (90 mL), washed with water (20 mL) and brine (20 mL), dried over MgSO4 and concentrated to leave an orange oil. This material was chromatographed on a 40-g silica cartridge eluted with a 0 to 100% ethyl acetate in hexanes gradient to afford 4-nitrophenyl (2S,3S)-5-(butylamino)-3-(tert-butyldimethylsilyloxy)-1-cyclohexyl-5-oxopentan-2-ylcarbamate (39 mg, 8%).

reactant | (3S,4S)-4-amino-N-butyl-3-(tertbutyldimethylsilyloxy)-5-cyclohexylpentanamide | 0.81 mmol, 311 mg | N[C@H]([C@H](CC(=O)NCCCC)O[Si](C)(C)C(C)(C)C)CC1CCCCC1 | C21H44N2O2Si
reactant | NaHCO3 | 2.43 mmol, 203 mg | C(=O)(O)[O-].[Na+]
reactant | p-nitrophenyl chloroformate | 1.21 mmol, 244 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | MeCN | CC#N | C2H3N
product | 4-nitrophenyl (2S,3S)-5-(butylamino)-3-(tert-butyldimethylsilyloxy)-1-cyclohexyl-5-oxopentan-2-ylcarbamate | 39 mg, 8% | C(CCC)NC(C[C@@H]([C@H](CC1CCCCC1)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O)O[Si](C)(C)C(C)(C)C)=O | C28H47N3O6Si
